US04496575
6.5 g (0.077 mol) of α-aminoisobutyronitrile are added dropwise to a solution of 17.1 g (0.072 mol) of 3-chloro-4-trifluoromethoxyphenyl isocyanate in 100 ml of acetone. The temperature increases to about 45° C. during this procedure. After the reaction has ceased, the solvent is evaporated off in vacuo, and the residue is then boiled for 1 hour with 80 ml of semi-concentrated hydrochloric acid. The 3-(3-chloro-4-trifluoromethoxyphenyl)-5,5-dimethyl-hydantoin formed during this process is recrystallized from toluene with the addition of petroleum ether. 16 g of product of melting point 104°-107° C. are obtained.

reactant | α-aminoisobutyronitrile | 0.077 mol, 6.5 g | NC(C#N)(C)C | C4H8N2
reactant | 3-chloro-4-trifluoromethoxyphenyl isocyanate | 0.072 mol, 17.1 g | ClC=1C=C(C=CC1OC(F)(F)F)N=C=O | C8H3ClF3NO2
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-(3-chloro-4-trifluoromethoxyphenyl)-5,5-dimethyl-hydantoin | ClC=1C=C(C=CC1OC(F)(F)F)N1C(NC(C1=O)(C)C)=O | C12H10ClF3N2O3
